US20010027196A1
A solution of 200 mg (0.60 mmol) 2-amino-4-furan-2-yl-6-(4-isopropenyl-benzylamino)-pyrimidine-5-carbonitrile in 15 ml ethanol and 15 ml dioxane was stirred with a spatula end of 10% palladium on charcoal under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, the reaction mixture was concentrated in vacuo. HPLC afforded 2 mg (1%) 2-amino-4-furan-2-yl-6-(4-isopropyl-benzylamino)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 334 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-(4-isopropenyl-benzylamino)-pyrimidine-5-carbonitrile | 0.60 mmol, 200 mg | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C(=C)C | C19H17N5O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-amino-4-furan-2-yl-6-(4-isopropyl-benzylamino)-pyrimidine-5-carbonitrile | 2 mg, 1% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C(C)C | C19H19N5O
